US07345049B2
Process 1 Methyl 4-[(t-butoxycarbonylethylamino) methyl]-2-nitrobenzoate
Triethylamine (1.9 mL) and ethyl chloroformate (11.0 mL) were added to the mixture of 1-methyl 2-nitroterephthalate (2.0 g) and tetrahydrofuran (120 mL) under cooling with ice and stirred for 30 minutes. Sodium borohydride (500 mL) and then 3 pieces of ice were added to the reaction solution and stirred at room temperature for 2 hours. The mixture was extracted with ethyl acetate and treated in accordance with the ordinary method. The obtained crude material (565 mg) was dissolved in dichloromethane (10 mL). Triethylamine (0.74 mL) and methanesulfonyl chloride (0.25 mL) were added thereto under cooling with ice and stirred for 2 hours. The mixture was extracted with dichloromethane and treated in accordance with the ordinary method. The obtained crude material was dissolved in acetonitrile (20 mL) and monoethylamine 2.0M tetrahydrofuran solution (2.68 mL) was added thereto and stirred at room temperature overnight. The mixture was extracted with ethyl acetate and treated in accordance with the ordinary method. The obtained crude material was dissolved in dichloromethane (10 mL). Triethylamine (0.74 mL) and di-t-butyldicarbonate (700 mg) were added thereto under cooling with ice and stirred for 2 hours. The mixture was extracted with dichloromethane and treated in accordance with the ordinary method to obtain 520 mg of the title compound.

reactant | ethyl chloroformate | 11.0 mL | ClC(=O)OCC | C3H5ClO2
reactant | 1-methyl 2-nitroterephthalate | 2.0 g | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(=O)[O-]
reactant | Sodium borohydride | 500 mL | [BH4-].[Na+]
reactant | methanesulfonyl chloride | 0.25 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | monoethylamine | 2.0M, 2.68 mL | C(C)N | C2H7N
reactant | di-t-butyldicarbonate | 700 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Triethylamine | 0.74 mL | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 0.74 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | Triethylamine | 1.9 mL | C(C)N(CC)CC | C6H15N
product | Methyl 4-[(t-butoxycarbonylethylamino) methyl]-2-nitrobenzoate | 520 mg | C(C)(C)(C)OC(=O)CCNCC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H22N2O6
